US06620841B1
To a suspension of sodium hydride (60% in mineral oil, 1.32 g, 33 mmol) in DMF(30 ml) was added at an ice bath temperature a solution of 2-acetylpyrrole (3.27 g, 30 mmol) in DMF (5 ml). The mixture was stirred at room temperature for 15 minutes and cooled again. To the solution was added dropwise a solution of 4-fluorobenzylbromide (6.24 g, 33 mmol) in DMF (2 ml). The reaction solution was stirred at room temperature for 1 hour and poured into ice-water, and then extracted with ethylacetate. The ethyl acetate was washed with water and dried. The solvent was evaporated to give 2-acetyl-1-(4-fluorobenzyl)pyrrole (6.5 g) as an oil quantitatively. NMR(CDCl3) δ: 2.41(3H, s), 5.53(2H, s), 6.18-6.22(1H, m), 6.88-7.14(6H, m).

reactant | sodium hydride | 33 mmol, 1.32 g | [H-].[Na+]
reactant | 2-acetylpyrrole | 30 mmol, 3.27 g | C(C)(=O)C=1NC=CC1 | C6H7NO
reactant | 4-fluorobenzylbromide | 33 mmol, 6.24 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-acetyl-1-(4-fluorobenzyl)pyrrole | 6.5 g | C(C)(=O)C=1N(C=CC1)CC1=CC=C(C=C1)F | C13H12FNO
